US06277987B1
Sodium hydride (0.522 g, 13.05 mmol) is added to a solution of phthalimide (2.33 g, 15.84 mmol) and 18-crown-6 (0.01 g) in 20 mL of N,N-dimethylformamide (DMF). After stirring at RT for 20 min, a solution of the title F compound, (2R)-(t-butyloxycarbonylamino)-5-iodopentanoic acid t-butyl ester (4.61 g, 11.55 mmol) in 5 mL of DMF is added, and the solution is stirred at RT for 30 min, then at 60° C. for 8 h. The solvent is removed under reduced pressure, and the residue is partitioned between 300 mL of ethyl acetate and 225 mL of 0.05M aqueous HCl. The organic phase is washed with 100 mL water and 50 mL of brine, dried over anhydrous Na2SO4 and concentrated to give 4.83 g (100%) of (2R)-(t-butyloxycarbonylamino)-5-(1,3-dioxo-1,3-dihydroisoindol-2-yl)pentanoic acid t-butyl ester as a tan solid: NMR(CDCl3) 1.43 (s, 9H), 1.45 (s, 9H), 1.60-1.88 (m, 4H), 3.71 (t, 2H, J=6.6), 4.18-4.26 (m, 1H), 5.06 (br d, 1H, J=7.9), 7.70-7.73 (m, 2H), 7.83-7.86 (m, 2H); IR 1712, 1500, 1155; ESI-MS 290 (M++1).

reactant | Sodium hydride | 13.05 mmol, 0.522 g | [H-].[Na+]
reactant | phthalimide | 15.84 mmol, 2.33 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | (2R)-(t-butyloxycarbonylamino)-5-iodopentanoic acid t-butyl ester | 11.55 mmol, 4.61 g | C(C)(C)(C)OC([C@@H](CCCI)NC(=O)OC(C)(C)C)=O | C14H26INO4
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | DMF | 5 mL | CN(C=O)C | C3H7NO
catalyst | 18-crown-6 | 0.01 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | (2R)-(t-butyloxycarbonylamino)-5-(1,3-dioxo-1,3-dihydroisoindol-2-yl)pentanoic acid t-butyl ester | 4.83 g, 100% | C(C)(C)(C)OC([C@@H](CCCN1C(C2=CC=CC=C2C1=O)=O)NC(=O)OC(C)(C)C)=O | C22H30N2O6
